US04587342
To a cold (0°) solution of 8-hydroxy-7-methoxyquinoline (0.92 g, 5.25 mmol) and 26% aqueous dimethylamine (3.0 g, 17 mmol) in 10 mL of ethanol was added dropwise 37% aqueous formaldehyde (0.77 g, 9.5 mmol). After stirring at room temperature for 1 hr, the mixture was refluxed for 30 min, cooled and evaporated to dryness. The residue was diluted with water, extracted with ether and dried (MgSO4). Evaporation gave 5-dimethylaminomethyl-8-hydroxy-7-methoxyquinoline as an oil (0.85 g, 69%); structure confirmed by NMR. This oil (0.85 g, 3.6 mmol) was heated under nitrogen with 2,4-diamino-6-methylthiopyrimidine (0.57 g, 3.6 mmol) in ethylene glycol (5 mL) at 140°-165° for 45 min, then cooled. The solid that separated was collected, and washed with ethanol and ether to give 2,4-diamino-5-(8-hydroxy-7-methoxy-5-quinolylmethyl)-6-methylthiopyrimidine as a tan solid (0.47 g, 37%), structure confirmed by NMR and mass spectroscopy. A portion of this solid (0.38 g, 1.1 mmol) was used in the procedure of Example 11B to give the title compound (mp 245°-250° dec). Anal. Calcd for C17H19N5SO2.0.5H2O: C, 55.72; H, 5.50; N, 19.11; S, 8.75. Found: C, 55.71; H, 5.51; N, 19.11; S, 8.74.

reactant | 8-hydroxy-7-methoxyquinoline | 5.25 mmol, 0.92 g | OC=1C(=CC=C2C=CC=NC12)OC | C10H9NO2
reactant | dimethylamine | 17 mmol, 3.0 g | CNC | C2H7N
reactant | formaldehyde | 9.5 mmol, 0.77 g | C=O | CH2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-dimethylaminomethyl-8-hydroxy-7-methoxyquinoline | 0.85 g, 69% | CN(C)CC1=C2C=CC=NC2=C(C(=C1)OC)O | C13H16N2O2
